US07875645B2
rac-2-(2,5-Difluoro-phenyl)-butyronitrile was prepared from rac-2-(1-bromo-propyl)-1,4-difluoro-benzene and trimethylsilyl cyanide in analogy to Example 23 c): colourless oil.

reactant | rac-2-(1-bromo-propyl)-1,4-difluoro-benzene | BrC(CC)C1=C(C=CC(=C1)F)F | C9H9BrF2
reactant | trimethylsilyl cyanide | C[Si](C)(C)C#N | C4H9NSi
product | rac-2-(2,5-Difluoro-phenyl)-butyronitrile | FC1=C(C=C(C=C1)F)C(C#N)CC | C10H9F2N
